US07129249B2
N-(6-Fluoro-1,2,3,4-tetrahydroquinolin-3-yl)-6H-thieno[2,3-b]pyrrole-5-carboxamide
Et3N (184 μL, 1.32 mmol), HOBT (89 mg, 0.66 mmol), 3-amino-6-fluoro-3,4-dihydro-2(1H)-quinolinone monohydrochloride (CAS Reg. No: 82420-54-0) (143 mg, 0.66 mmol), and EDAC (127 mg, 0.66 mmol) were added to a solution of 2-chloro-6H-thieno[2,3-b]pyrrole-5-carboxylic acid (133 mg, 0.66 mmol) in anhydrous DMF (3.5 mL). The reaction was stirred at ambient temperature for approximately 16 h, and then poured into water (50 mL). This was stirred vigorously for about 10 mins. and filtered. The collected precipitate was washed with water and dried in vacuum at 40° C., to give the title compound (203 mg, 84%) as an amorphous solid.

reactant | Et3N | 1.32 mmol, 184 μL | CCN(CC)CC | C6H15N
reactant | HOBT | 0.66 mmol, 89 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-amino-6-fluoro-3,4-dihydro-2(1H)-quinolinone monohydrochloride | Cl.NC1C(NC2=CC=C(C=C2C1)F)=O
reactant | EDAC | 0.66 mmol, 127 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-chloro-6H-thieno[2,3-b]pyrrole-5-carboxylic acid | 0.66 mmol, 133 mg | ClC1=CC2=C(NC(=C2)C(=O)O)S1 | C7H4ClNO2S
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | N-(6-Fluoro-1,2,3,4-tetrahydroquinolin-3-yl)-6H-thieno[2,3-b]pyrrole-5-carboxamide | 203 mg, 84% | FC=1C=C2CC(CNC2=CC1)NC(=O)C1=CC2=C(N1)SC=C2 | C16H14FN3OS
